US08604029B2
Manganese dioxide (3.17 g, 36.5 mmol) was added to a solution of (4,6-dimethyl-pyridin-2-yl)-methanol (1.0 g, 7.30 mmol) in chloroform (30 mL) and heated at reflux overnight. The reaction mixture was cooled to 0° C. and filtered over celite, washing with further chloroform. The filtrate was evaporated to give a residue which was purified by column chromatography over silica gel (60-120 mesh) using 10% ethyl acetate in hexane as eluent to afford 4,6-dimethyl-pyridine-2-carbaldehyde (0.5 g, 51%) as a light brown liquid.

reactant | (4,6-dimethyl-pyridin-2-yl)-methanol | 7.30 mmol, 1.0 g | CC1=CC(=NC(=C1)C)CO | C8H11NO
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 36.5 mmol, 3.17 g | [O-2].[O-2].[Mn+4]
product | 4,6-dimethyl-pyridine-2-carbaldehyde | 0.5 g, 51% | CC1=CC(=NC(=C1)C)C=O | C8H9NO
